US03998958
The HBF4 salt of 1,5-dimethyl-2-iminopyrrolidine (6.75 g.; 0.0337 mole) is converted to free base in benzene in the usual manner. Then 4.96 g. (0.0337 mole) of 2,6-dimethylphenylisocyanate, dissolved in anhydrous benzene, is added. The reaction mixture is stirred for 2 hours and then the solvent is evaporated in vacuo leaving an oily residue which eventually crystallizes. Recrystallization from ethyl acetate gives the product, 1-(2,6-dimethylphenyl)-3-(1,5-dimethyl-2-pyrrolidylidene)urea, m.p. 120°-122° C.

reactant | HBF4 | [H+].[B-](F)(F)(F)F
reactant | 1,5-dimethyl-2-iminopyrrolidine | 0.0337 mole, 6.75 g | CN1C(CCC1C)=N | C6H12N2
reactant | 2,6-dimethylphenylisocyanate | 0.0337 mole | CC1=C(C(=CC=C1)C)N=C=O | C9H9NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(2,6-dimethylphenyl)-3-(1,5-dimethyl-2-pyrrolidylidene)urea | CC1=C(C(=CC=C1)C)NC(=O)N=C1N(C(CC1)C)C | C15H21N3O
